US05994368
To a mixture of 8-[2,6-dichloro-3-(3-methoxycarbonylpropionylamino)benzyloxy]-2-methylquinoline (447 mg), iodomethane (0.1 ml) and dimethylformamide (5.0 ml) was added sodium hydride (60% in oil, 44 mg) under ice-water cooling. After stirring for 2 hours at the same temperature, the reaction mixture was diluted with ethyl acetate and washed with water twice. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a column chromatography eluted with chloroform to give 8-[2,6-dichloro-3-[N-(3-methyoxycarbonylpropionyl)-N-methylamino]benzyloxy]-2-methylquinoline (310 mg) as a pale yellow oil.

reactant | 8-[2,6-dichloro-3-(3-methoxycarbonylpropionylamino)benzyloxy]-2-methylquinoline | 447 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1NC(CCC(=O)OC)=O)Cl | C22H20Cl2N2O4
reactant | iodomethane | 0.1 ml | IC | CH3I
reactant | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 44 mg | [H-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-[2,6-dichloro-3-[N-(3-methyoxycarbonylpropionyl)-N-methylamino]benzyloxy]-2-methylquinoline | 310 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CCC(=O)OC)=O)Cl | C23H22Cl2N2O4
